US07989461B2
Preparation of 6-(1,6-dimethyl-3-(3-(trifluoromethyl)phenylamino)-1H-indazol-7-yl)-N-methylquinazolin-2-amine
A mixture of 1-bromo-3-(trifluoromethyl)benzene (19 μL, 138 μmol), tris(dibenzylideneacetone)dipalladium (0) (3.5 mg, 3.8 μmol), sodium t-butoxide (17 mg, 176 μmol), 6-(3-amino-1,6-dimethyl-1H-indazol-7-yl)-N-methylquinazolin-2-amine (40 mg, 126 μmol) and X-Phos (6.7 mg, 14 μmol) in toluene (3 mL) was purged with nitrogen and heated in a microwave reactor at 130° C. for 33 min. Solvent was removed in vacuo and the residue was purified by flash chromatography (25-50% EtOAc hexane) to give the title compound. MS (M+H)+ 463.

reactant | 1-bromo-3-(trifluoromethyl)benzene | 138 μmol, 19 μL | BrC1=CC(=CC=C1)C(F)(F)F | C7H4BrF3
reactant | sodium t-butoxide | 176 μmol, 17 mg | CC(C)([O-])C.[Na+]
reactant | 6-(3-amino-1,6-dimethyl-1H-indazol-7-yl)-N-methylquinazolin-2-amine | 126 μmol, 40 mg | NC1=NN(C2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC)C | C18H18N6
reactant | X-Phos | 14 μmol, 6.7 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 3.8 μmol, 3.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(1,6-dimethyl-3-(3-(trifluoromethyl)phenylamino)-1H-indazol-7-yl)-N-methylquinazolin-2-amine | CN1N=C(C2=CC=C(C(=C12)C=1C=C2C=NC(=NC2=CC1)NC)C)NC1=CC(=CC=C1)C(F)(F)F | C25H21F3N6
